US06916815B2
A 1 L round bottom flask was charged with trans-4-aminocyclohexanol hydrochloride (25.0 g, 0.17 mol), di-tert-butyldicarbonate (40.8 g, 0.19 mol), and sodium hydroxide (20.1 g, 0.05 mol). Water (250 mL) and 1,4-dioxane (250 mL) were added and stirring begun. After stirring for 4 h the dioxane was removed under reduced pressure and the residue diluted with water (750 mL). The resulting solution was extracted with ethyl acetate (2×600 mL), and the combined organic phases dried over magnesium sulfate. Filtration and concentration yielded 30.6 g (74%) of 4-hydroxycyclohexylcarbamic acid tert-butyl ester as a white solid.

reactant | trans-4-aminocyclohexanol hydrochloride | 0.17 mol, 25.0 g | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | di-tert-butyldicarbonate | 0.19 mol, 40.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 0.05 mol, 20.1 g | [OH-].[Na+]
reactant | Water | 250 mL | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
product | 4-hydroxycyclohexylcarbamic acid tert-butyl ester | 30.6 g, 74% | C(C)(C)(C)OC(NC1CCC(CC1)O)=O | C11H21NO3
